US04925862
STEP A: Ethyl 2,3-dihydro-2-oxo-3-(2-propynyl)-4-trifluoromethyl-oxazol-5-carboxylate
5.4 ml of diethyl azodicarboxylate were added at 10 C to a solution of 7 g of ethyl 2,3-dihydro-2-oxo-4-trifluoromethyl-oxazol-5-carboxylate [prepared as in Patent No. EP 027,020], 70 ml of tetrahydrofuran, 8.15 g of triphenylphosphine and 3.3 ml of propargyl alcohol and the mixture was stirred for one hour at 20° C. The mixture was poured into water and was extracted with ethyl acetate, dried, filtered and concentrated. The residue was chromatographed on silica and eluted with a hexane-ethyl acetate mixture (85-15) to obtain 4.6 g of the expected product melting at 72° C.

reactant | diethyl azodicarboxylate | 5.4 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 2,3-dihydro-2-oxo-4-trifluoromethyl-oxazol-5-carboxylate | 7 g | O=C1OC(=C(N1)C(F)(F)F)C(=O)OCC | C7H6F3NO4
reactant | triphenylphosphine | 8.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | propargyl alcohol | 3.3 ml | C(C#C)O | C3H4O
solvent | water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | Ethyl 2,3-dihydro-2-oxo-3-(2-propynyl)-4-trifluoromethyl-oxazol-5-carboxylate | 4.6 g | O=C1OC(=C(N1CC#C)C(F)(F)F)C(=O)OCC | C10H8F3NO4
